### PR TITLE
[Merged by Bors] - feat(Tactic/Finiteness): tag more lemmas

### PR DESCRIPTION
**Pull request by grunweg**
Tag a few more lemmas with finiteness, and add a few more lemmas for it.
Now, `finiteness` should handle (basic cases of) ENNReal division, powers and maximum.
Also tag `edist_ne_top` and `measure_ball_ne_top`, to enable further use of finiteness.

From the Carleson project.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/SpecialFunctions/Pow/NNReal.lean [hunk 1]
```diff
@@ -561,12 +561,24 @@ theorem rpow_eq_top_of_nonneg (x : ℝ≥0∞) {y : ℝ} (hy0 : 0 ≤ y) : x ^ y
...
 
+-- This is an unsafe rule since we want to try `rpow_pos` if x = 0.
+@[aesop (rule_sets := [finiteness]) unsafe apply]
 theorem rpow_ne_top_of_nonneg {x : ℝ≥0∞} {y : ℝ} (hy0 : 0 ≤ y) (h : x ≠ ⊤) : x ^ y ≠ ⊤ :=
   mt (ENNReal.rpow_eq_top_of_nonneg x hy0) h
 
 theorem rpow_lt_top_of_nonneg {x : ℝ≥0∞} {y : ℝ} (hy0 : 0 ≤ y) (h : x ≠ ⊤) : x ^ y < ⊤ :=
   lt_top_iff_ne_top.mpr (ENNReal.rpow_ne_top_of_nonneg hy0 h)
 
+lemma rpow_ne_top {x : ℝ≥0∞} {y : ℝ} : ¬(x = 0 ∧ y < 0 ∨ x = ⊤ ∧ 0 < y) → x ^ y ≠ ⊤ := by
```
Comment (sgouezel) [inline Mathlib/Analysis/SpecialFunctions/Pow/NNReal.lean:572]: That's a weird spelling (which is handy for the proof, I understand). Wouldn't it be more natural to have two assumptions, of the form `x ne 0 or y nonneg` and `x ne top or y nonpos`?

File: Mathlib/Analysis/SpecialFunctions/Pow/NNReal.lean [hunk 2]
```diff
@@ -561,12 +561,24 @@ theorem rpow_eq_top_of_nonneg (x : ℝ≥0∞) {y : ℝ} (hy0 : 0 ≤ y) : x ^ y
...
+  contrapose
+  rw [← rpow_eq_top_iff (x := x) (y := y)]
+  simp
+
+@[aesop (rule_sets := [finiteness]) unsafe apply]
+lemma rpow_ne_top_of_pos {x : ℝ≥0∞} {y : ℝ} (hx : x ≠ 0) (hx' : x ≠ ⊤) : x ^ y ≠ ⊤ := by
```
Comment (sgouezel) [inline Mathlib/Analysis/SpecialFunctions/Pow/NNReal.lean:578]: the lemma name is strange, there is no pos to be seen.

File: Mathlib/Analysis/SpecialFunctions/Pow/NNReal.lean [hunk 3]
```diff
@@ -812,6 +824,8 @@ theorem rpow_pos_of_nonneg {p : ℝ} {x : ℝ≥0∞} (hx_pos : 0 < x) (hp_nonne
     rw [← zero_rpow_of_pos hp_pos]
     exact rpow_lt_rpow hx_pos hp_pos
 
+-- This is an unsafe rule since we want to try `rpow_ne_top_of_nonneg` if x = 0.
+@[aesop (rule_sets := [finiteness]) unsafe apply]
```
Comment (sgouezel) [inline Mathlib/Analysis/SpecialFunctions/Pow/NNReal.lean:828]: Why is that a finiteness rule? It doesn't conclude finiteness.

File: Mathlib/Topology/MetricSpace/Pseudo/Defs.lean [hunk 4]
```diff
@@ -290,6 +290,7 @@ theorem edist_lt_top {α : Type*} [PseudoMetricSpace α] (x y : α) : edist x y
   (edist_dist x y).symm ▸ ENNReal.ofReal_lt_top
 
 /-- In a pseudometric space, the extended distance is always finite -/
+@[aesop (rule_sets := [finiteness]) unsafe apply]
```
Comment (sgouezel) [inline Mathlib/Topology/MetricSpace/Pseudo/Defs.lean:293]: Why is that unsafe?

File: Mathlib/Analysis/SpecialFunctions/Pow/NNReal.lean (hunk 1 above)
Comment (grunweg) [reply Mathlib/Analysis/SpecialFunctions/Pow/NNReal.lean]: Good question! I changed this to a version with two assumptions (which seems to be longer, though --- perhaps I'm missing a golfing trick).

File: Mathlib/Analysis/SpecialFunctions/Pow/NNReal.lean (hunk 3 above)
Comment (grunweg) [reply Mathlib/Analysis/SpecialFunctions/Pow/NNReal.lean]: Good point! I meant to state a different lemma, added now.

Comment (grunweg) [reply Mathlib/Analysis/SpecialFunctions/Pow/NNReal.lean]: Added a test that this works.

**Comment by grunweg** [comment]
#25111 contains a benchmarking run: overall, there is an increase of 34 * 10⁹ instructions - return for 30-35 saved lines, others becoming shorter, and a tactic becoming more powerful. I'd say that's worth it. (Of course, I'm happy to look into other slow files and revert changes that are slow.)

File: Mathlib/Analysis/SpecialFunctions/Pow/NNReal.lean (hunk 1 above)
Comment (grunweg) [reply Mathlib/Analysis/SpecialFunctions/Pow/NNReal.lean]: It turns out the new lemmas is in fact not needed: I have deleted it now.

**Comment by grunweg** [comment]
!bench

**Review by fpvandoorn — APPROVED** [review]
LGTM

bors merge
